US07456164B2
Intermediate 55: ethyl {4-[(1-cyclobutylpiperidin-4-yl)oxy]phenyl}acetate
DIAD (9.8 ml, 47.3 mmol) was added dropwise over 10 minutes to a solution of ethyl-4-hydroxy phenylacetate (7.7 g, 42.7 mmol), 1-cyclobutylpiperidin-4-ol (6.58 g, 42.5 mmol) and PPh3 (12.3 g, 47 mmol) in THF (150 ml) at 0° C. The reaction mixture was then stirred at room temperature for 18 hours. The reaction was concentrated in vacuo. The residue was taken up in ethyl acetate (150 ml). The organic layer was washed with water (150 ml) and 2N aqueous hydrochloric acid (50 ml) twice. The acid layers were basified with sodium carbonate and extracted with dichloromethane (2×80 ml). These organics were combined, dried over sodium sulphate, filtered and concentrated in vacuo. The crude product was purified by flash chromatography on silica gel eluting with ethyl acetate:pentane:diethylamine (70:30:2 by volume) to provide the title compound (2.0 g, 15%) as a colourless oil. LRMS APCI+ m/z 318 [MH]+.

reactant | DIAD | 47.3 mmol, 9.8 ml | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | 1-cyclobutylpiperidin-4-ol | 42.5 mmol, 6.58 g | C1(CCC1)N1CCC(CC1)O | C9H17NO
reactant | PPh3 | 47 mmol, 12.3 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | THF | 150 ml | C1CCOC1 | C4H8O
product | ethyl {4-[(1-cyclobutylpiperidin-4-yl)oxy]phenyl}acetate | 2.0 g, 15% | C1(CCC1)N1CCC(CC1)OC1=CC=C(C=C1)CC(=O)OCC | C19H27NO3
